US05347058
Preparation of CF3CF2CO2SiMe3
A 200 mL Hastelloy® pressure vessel was heated for 6 hr at 150° C. under a nitrogen purge. At room temperature, the vessel was charged with potassium trimethylsilanolate (0.65 g, 5.1 mmol) and hexamethyldisiloxane (81 g, 0.50 tool) and then sealed, cooled and evacuated. Pentafluoropropionyl fluoride (47.4 g, 0.27 mol) was transferred from a cycinder to the pressure vessel. Once sealed, it was heated at 125° C. (barricade). The pressure rapidly increased to 1.79 MPa and then dropped to 0.62 MPa during a 1.5 hr period. The pressure vessel was heated for a total of 24 hr. The cooled pressure vessel was pressurized with nitrogen and the contents were transferred to a dried bottle. The crude product was transferred under vacuum and subsequently fractionated by spinning band distillation to remove most of the trimethylsilyl fluoride. The remaining 100 g of colorless liquid was a mixture of three components: trimethylsilyl pentafluoropropionate (49.7%) , hexamethyldisiloxane (42.6%) , and trimethylsilyl fluoride (7.6%) as determined by GC analysis, 1H and 19F NMR analyses. 19F NMR(CDCl3): -83.4 (s, CF3), -122.28 (s, CF2), -158.2 (m, SiF). 1H NMR: 0.40 (s, CO2SiMe3), 0.22 (d, Me3SiF), and 0.06 (s, Me6Si2O). GC/MS analysis of a previously prepared sample of CF3CF2CO2SiMe3 featured a component with m/z@220.989868 (calcd forC5H6F5SiO2 =221.005722), consistent with M--CH3.

reactant | potassium trimethylsilanolate | 5.1 mmol, 0.65 g | C[Si]([O-])(C)C.[K+]
reactant | hexamethyldisiloxane | 81 g | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | Pentafluoropropionyl fluoride | 0.27 mol, 47.4 g | FC(C(=O)F)(C(F)(F)F)F | C3F6O
product | CF3CF2CO2SiMe3 | C(F)(F)(F)C(F)(F)C(=O)O[Si](C)(C)C | C6H9F5O2Si
